US04539150
Preparation of 3-(1-carboxy-3-phenylpropylamino)-5-carboxymethyl-2,3-dihydro-1,5-benzothiazepin-4(5H)-one
1.2 g of 3-(1-ethoxycarbonyl-3-phenylpropylamino)-5-ethoxycarbonylmethyl-2,3-dihydro-1,5-benzothiazepin-4(5H)-one was dissolved in 15 ml of ethanol, and 6 ml of 1N NaOH was added thereto. The resulting mixture was stirred at room temperature, so that white crystals were precipitated. After 1.5 hours, the ethanol was distilled off under reduced pressure and water was added to the residue. After a small amount of insoluble matter was filtered off, the filtrate was adjusted to pH 3-4 with 6N hydrochloric acid. The precipitated crystals were separated by filtration and washed with cold water and then with ether to obtain 650 mg of the desired compound.

reactant | 3-(1-ethoxycarbonyl-3-phenylpropylamino)-5-ethoxycarbonylmethyl-2,3-dihydro-1,5-benzothiazepin-4(5H)-one | 1.2 g | C(C)OC(=O)C(CCC1=CC=CC=C1)NC1CSC2=C(N(C1=O)CC(=O)OCC)C=CC=C2 | C25H30N2O5S
reactant | NaOH | 1N, 6 ml | [OH-].[Na+]
solvent | ethanol | 15 ml | C(C)O | C2H6O
product | 3-(1-carboxy-3-phenylpropylamino)-5-carboxymethyl-2,3-dihydro-1,5-benzothiazepin-4(5H)-one | 650 mg | C(=O)(O)C(CCC1=CC=CC=C1)NC1CSC2=C(N(C1=O)CC(=O)O)C=CC=C2 | C21H22N2O5S
